US08217065B2
A. 4-Methoxy-benzoic acid N′-(4-amino-3-nitrobenzoyl)-hydrazide
To a solution of 4-amino-3-nitrobenzoic acid (3.64 g, 20 mmol) in DMF (50 mL) was added HOBT (2.70 g, 20 mmol) and EDCI (3.83 g, 20 mmol). After the addition, the solution was stirred at 25° C. for 10 min then 4-methoxybenzoic acid hydrazide (3.32 g, 20 mmol) was added and followed by the addition of NEt3 (8.35 mL, 60 mmol). The solution was stirred at 25° C. overnight and water was added. The resulting suspension was filtered and the solid was washed with water. The yellow solid was dried under reduced pressure and was purified by flash chromatography (heptane/EtOAc=1:3) to give the title compound. MS: m/z 331 (M+1).

reactant | 4-amino-3-nitrobenzoic acid | 20 mmol, 3.64 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | HOBT | 20 mmol, 2.70 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 20 mmol, 3.83 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-methoxybenzoic acid hydrazide | 20 mmol, 3.32 g | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
reactant | NEt3 | 60 mmol, 8.35 mL | CCN(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Methoxy-benzoic acid N′-(4-amino-3-nitrobenzoyl)-hydrazide | NC1=C(C=C(C(=O)NNC(C2=CC=C(C=C2)OC)=O)C=C1)[N+](=O)[O-] | C15H14N4O5
